US08629271B2
d) tert-Butyl 4-(2,2,2-trifluoroacetyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
A solution of trifluoroacetic anhydride (2.2 mL) in DCM (14 mL) was added dropwise over 20 min to a solution of tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (WuXi PharmaTech) (4.7 g) and triethylamine (4.9 mL) in DCM (90 mL) at 0° C. The mixture was stirred at 0° C. for 45 min and then at RT for 2 h. Water (90 mL) was added and the mixture was vigorously stirred for 10 min. The layers were separated and the aqueous layer was extracted with DCM (50 mL). The combined organic layers were dried over sodium sulfate and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with 40-50% EtOAc in petroleum ether (40-60° C.) to give the subtitled compound as a yellow oil. Yield 2.73 g.

reactant | trifluoroacetic anhydride | 2.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 4.7 g | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | triethylamine | 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 90 mL | O | H2O
solvent | DCM | 14 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 90 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(2,2,2-trifluoroacetyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | FC(C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C)(F)F | C15H23F3N2O4
